data/oMe_Silver.jsonl
{"reaction_id": "NR-337_1-C(F)(F)F_2-OC(C)(C)C_3-C(C)(C)C_4-Cl_5-c2cccc(C)c2","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(C(F)(F)F)c(OC(C)(C)C)c(C(C)(C)C)c(Cl)c1c2cccc(C)c2","N#C[Cu]"],"products_smiles": ["c1(C#N)c(C(F)(F)F)c(OC(C)(C)C)c(C(C)(C)C)c(Cl)c1c2cccc(C)c2"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(C(F)(F)F)c(OC(C)(C)C)c(C(C)(C)C)c(Cl)c1c2cccc(C)c2","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(C(F)(F)F)c(OC(C)(C)C)c(C(C)(C)C)c(Cl)c1c2cccc(C)c2","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
{"reaction_id": "NR-113_1-C_2-c1ccccc1_3-C(F)(F)F_4-c1ccccc1_5-C","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(C)#[N+][O-]","c1ccccc1/C(C(F)(F)F)=C(/c1ccccc1)C"],"products_smiles": ["C1(C)=NOC(c1ccccc1)(C)C1(c1ccccc1)(C(F)(F)F)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C)=NOC(c1ccccc1)(C)C1(c1ccccc1)(C(F)(F)F)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
